US09302998B2
STEP A: [tert-butoxycarbonyl-(4-morpholin-4-yl-phenyl)-amino]-propynoic acid methyl ester
LiHMDS (4.35 ml, 1 M in THF, 4.35 mmol) was added to a solution of ethynyl-(4-morpholin-4-yl-phenyl)-carbamic acid tert-butyl ester (750 mg, 2.5 mmol, in dry THF (4.3 ml) under nitrogen at −78° C. The mixture was slowly warmed up to −40° C. and maintained at this temperature for 1 hour. The latter was then transferred dropwise via cannula to a solution of ClCO2Me (314 μl, 4.06 mmol) in THF (7.5 ml) at −40° C. The resulting mixture was allowed to return to RT. Saturated aqueous NH4Cl and AcOEt were added and the organic phase was extracted (3×15 ml AcOEt) and dried over Na2SO4. The title compound was obtained after purification by column chromatography (PE/AcOEt:80/20 to 75/25).

reactant | LiHMDS | 4.35 mmol, 1 M, 4.35 ml | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | ethynyl-(4-morpholin-4-yl-phenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C1=CC=C(C=C1)N1CCOCC1)C#C)=O | C17H22N2O3
reactant | ClCO2Me | 4.06 mmol, 314 μl | ClC(=O)OC | C2H3ClO2
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 4.3 ml | C1CCOC1 | C4H8O
solvent | THF | 7.5 ml | C1CCOC1 | C4H8O
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | [tert-butoxycarbonyl-(4-morpholin-4-yl-phenyl)-amino]-propynoic acid methyl ester | Yield: 61% | COC(C#CN(C1=CC=C(C=C1)N1CCOCC1)C(=O)OC(C)(C)C)=O | C19H24N2O5
